US07834021B2
N-[2-({(3R)-1-[4-Fluoro-4-(1,3-thiazol-2-yl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
DAST (0.2 mL, 1.5 mmol) was added to N-[2-({(3R)-1-[4-hydroxy-4-(1,3-thiazol-2-yl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (0.06 g, 0.12 mmol) in CH2Cl2 (5 mL) at −78° C. with stirring under N2. The solution was allowed to warm to 0° C. slowly and stirred for 1 h. Water and EtOAc were added. The aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with saturated NaCl, dried (MgSO4), concentrated and purified by flash chromatography and reverse-phase HPLC to give 0.020 g of the title compound in 31% yield. MS (EI) calcd: (M+H)+=499.2; found: 499.1.

reactant | DAST | 1.5 mmol, 0.2 mL | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | N-[2-({(3R)-1-[4-hydroxy-4-(1,3-thiazol-2-yl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.12 mmol, 0.06 g | OC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C=1SC=CN1 | C23H27F3N4O3S
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[2-({(3R)-1-[4-Fluoro-4-(1,3-thiazol-2-yl)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.020 g, 31% yield | FC1(CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)C=1SC=CN1 | C23H26F4N4O2S
